US07141583B2
(5R)-3-(4-(1-Methylsulfonyl-1,2,5,6-tetrahydropyridin-4-yl)-3-fluoro-phenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
(5R)-3-(4-(1,2,5,6-Tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-oxazolidin-2-one hydrochloride (380 mg, 1 mM) was suspended in dichloromethane (15 ml), 4-dimethylaminopyridine (305 mg, 2.5 mM) added, and the mixture stirred vigorously for 15 minutes. After cooling to 0° C. under nitrogen, methanesulfonyl chloride (229 mg, 2 mM) was added dropwise, and the mixture stirred 18 hours at ambient temperature. Precipitated solid was removed, and the organic solution concentrated, then purified by chromatography on a 10 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 5% methanol in dichloromethane. Relevant fractions were combined and evaporated to give the desired product (30 mg). MS (ESP): 422 (MH+) for C18H20FN5O4S

reactant | (5R)-3-(4-(1,2,5,6-Tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-oxazolidin-2-one hydrochloride | 1 mM, 380 mg | Cl.N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F
reactant | methanesulfonyl chloride | 2 mM, 229 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.5 mM, 305 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (5R)-3-(4-(1-Methylsulfonyl-1,2,5,6-tetrahydropyridin-4-yl)-3-fluoro-phenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 30 mg | CS(=O)(=O)N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F | C18H20FN5O4S
